### PR TITLE
[Merged by Bors] - feat(RingTheory): ` (⊥ : Ideal R) ^ n = ⊥`

### PR DESCRIPTION
**Pull request by xroblot**
This seems to be missing...

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Algebra/Operations.lean [hunk 1]
```diff
@@ -311,6 +311,13 @@ protected theorem pow_one : M ^ 1 = M := by
 protected theorem pow_succ' {n : ℕ} (h : n ≠ 0) : M ^ (n + 1) = M * M ^ n := by
   rw [add_comm, M.pow_add h, Submodule.pow_one]
 
+@[simp]
+theorem bot_pow {n : ℕ} (hn : n ≠ 0) : (⊥ : Submodule R A) ^ n = ⊥ := by
+  have : 1 ≤ n := by exact Nat.one_le_iff_ne_zero.mpr hn
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/Operations.lean]:
```suggestion
  have : 1 ≤ n := Nat.one_le_iff_ne_zero.mpr hn
```

File: Mathlib/Algebra/Algebra/Operations.lean [hunk 2]
```diff
@@ -311,6 +311,13 @@ protected theorem pow_one : M ^ 1 = M := by
...
+  induction n, this using Nat.le_induction with
+  | base => rw [Submodule.pow_one]
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/Operations.lean]:
```suggestion
  | base => exact Submodule.pow_one _
```

Comment (xroblot) [reply Mathlib/Algebra/Algebra/Operations.lean]: Thanks for the review!

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

**Comment by kim-em** [comment]
bors merge

File: Mathlib/Algebra/Algebra/Operations.lean [hunk 3]
```diff
@@ -311,6 +311,13 @@ protected theorem pow_one : M ^ 1 = M := by
 protected theorem pow_succ' {n : ℕ} (h : n ≠ 0) : M ^ (n + 1) = M * M ^ n := by
   rw [add_comm, M.pow_add h, Submodule.pow_one]
 
+@[simp]
+theorem bot_pow {n : ℕ} (hn : n ≠ 0) : (⊥ : Submodule R A) ^ n = ⊥ := by
+  have : 1 ≤ n := Nat.one_le_iff_ne_zero.mpr hn
+  induction n, this using Nat.le_induction with
+  | base => exact Submodule.pow_one _
+  | succ n hmn h => rw [Submodule.pow_succ, h (Nat.ne_zero_of_lt hmn), bot_mul]
```
Comment (eric-wieser) [inline Mathlib/Algebra/Algebra/Operations.lean]:
```suggestion
theorem bot_pow {n : ℕ} (hn : n ≠ 0) : (⊥ : Submodule R A) ^ n = ⊥ := zero_pow hn
```

**Comment by eric-wieser** [comment]
bors r-

bors d+

File: Mathlib/Algebra/Algebra/Operations.lean [hunk 4]
```diff
@@ -311,6 +311,13 @@ protected theorem pow_one : M ^ 1 = M := by
 protected theorem pow_succ' {n : ℕ} (h : n ≠ 0) : M ^ (n + 1) = M * M ^ n := by
   rw [add_comm, M.pow_add h, Submodule.pow_one]
 
+@[simp]
+theorem bot_pow {n : ℕ} (hn : n ≠ 0) : (⊥ : Submodule R A) ^ n = ⊥ := by
```
Comment (alreadydone) [inline Mathlib/Algebra/Algebra/Operations.lean:315]: Just a remark that [zero_pow](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/GroupWithZero/Basic.html#zero_pow) isn't applicable here since we only have a [Submodule.instNonUnitalSemiring](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Algebra/Operations.html#Submodule.instNonUnitalSemiring) instance (1 is left identity and not necessarily right identity).

File: Mathlib/Algebra/Algebra/Operations.lean (hunk 3 above)
Comment (alreadydone) [reply Mathlib/Algebra/Algebra/Operations.lean]: [zero_pow](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/GroupWithZero/Basic.html#zero_pow) isn't applicable here since we only have a [Submodule.instNonUnitalSemiring](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Algebra/Operations.html#Submodule.instNonUnitalSemiring) instance (1 is left identity and not necessarily right identity).

```suggestion
theorem bot_pow : ∀ {n : ℕ}, n ≠ 0 → (⊥ : Submodule R A) ^ n = ⊥
  | 1, _ => Submodule.pow_one _
  | n + 2, _ => by rw [Submodule.pow_succ, bot_pow n.succ_ne_zero, bot_mul]
```

**Review by alreadydone — APPROVED** [review]

File: Mathlib/Algebra/Algebra/Operations.lean (hunk 3 above)
Comment (xroblot) [reply Mathlib/Algebra/Algebra/Operations.lean]: Yes, `zero_pow` does not work here.
